US06492383B1
B. N-(2-Benzyloxy-ethyl)-N′-(6-phenyl-thieno[3,2-d]pyrimidin-4-yl)-benzene-1,4-diamine
The title compound was prepared from benzyloxy-acetaldehyde (12 mg, 0.079 mmol) and N-(6-Phenyl-thieno[3,2-d]pyrimidin-4-yl)-benzene-1,4-diamine (150 mg, 0.471 mmol) by a procedure analogous to example 17. RP18-HPLC RT: 7.062 minutes; API MS: 452.58 (M+1) MP: 201-203° C.

reactant | benzyloxy-acetaldehyde | 0.079 mmol, 12 mg | C(C1=CC=CC=C1)OCC=O | C9H10O2
reactant | N-(6-Phenyl-thieno[3,2-d]pyrimidin-4-yl)-benzene-1,4-diamine | 0.471 mmol, 150 mg | C1(=CC=CC=C1)C1=CC=2N=CN=C(C2S1)NC1=CC=C(C=C1)N | C18H14N4S
product | N-(2-Benzyloxy-ethyl)-N′-(6-phenyl-thieno[3,2-d]pyrimidin-4-yl)-benzene-1,4-diamine | C(C1=CC=CC=C1)OCCNC1=CC=C(C=C1)NC=1C2=C(N=CN1)C=C(S2)C2=CC=CC=C2 | C27H24N4OS
